US04479955
A mixture of 3.2 g of ethyl 4-chloro-thieno[2,3-b]pyridine-3-carboxylate (prepared according to J. Heterocyclic Chem., 1977, 14, 807) and 2.08 g of 4-chlorophenylhydrazine in 50 ml of n-butanol is refluxed for 48 hours. The reaction mixture is cooled in an ice bath and the resulting precipitate is collected, washed with a small amount of n-butanol to yield a solid. The solid is treated with ether and 1N sodium hydroxide (20 ml) and water (50 ml). The aqueous phase is washed with ether, then neutralized with ammonium chloride (2 g) to precipitate a yellow solid. The solid is collected, washed with water and dried to yield 2-(4-chlorophenyl)-thieno[2,3-b]pyrazolo[3,4-d]pyridin-3(5H)-one hydrate, m.p. 310°-313°.

reactant | ethyl 4-chloro-thieno[2,3-b]pyridine-3-carboxylate | 3.2 g | ClC1=C2C(=NC=C1)SC=C2C(=O)OCC | C10H8ClNO2S
reactant | 4-chlorophenylhydrazine | 2.08 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
reactant | ether | CCOCC | C4H10O
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
solvent | n-butanol | 50 ml | C(CCC)O | C4H10O
solvent | water | 50 ml | O | H2O
product | 2-(4-chlorophenyl)-thieno[2,3-b]pyrazolo[3,4-d]pyridin-3(5H)-one hydrate | O.ClC1=CC=C(C=C1)N1N=C2C3=C(NC=C2C1=O)SC=C3 | InChI=1S/C14H8ClN3OS.H2O/c15-8-1-3-9(4-2-8)18-14(19)11-7-16-13-10(5-6-20-13)12(11)17-18;/h1-7,16H;1H2
